US07338959B2
N5-[2-(3-Methanesulfonylmethyl-phenylamino)-pyrimidin-4-yl]-1,N2,N5-trimethyl-1H-benzoimidazole-2,5-diamine
The title compound was prepared following the procedure of Example 1 with N5-(2-chloropyrimidin-4-yl)-N2,N5,1-trimethyl-1H-benzimidazole-2,5-diamine (48 mg, 0.16 mmol) and 3-methanesulfonylmethyl-phenylamine (30 mg, 0.16 mmol) as a white solid (75 mg, 83%). 1H NMR (300 MHz, d6-DMSO) δ 9.23 (s, 1H), 7.89 (s, 1H), 7.79 (d, J=6.0 Hz, 1H), 7.68 (d, J=8.1 Hz, 1H), 7.19-7.27 (m, 3H), 7.13 (s, 1H), 6.87-6.93 (m, 2H), 5.66 (d, J=6.0 Hz, 1H), 4.33 (s, 2H), 3.54 (s, 3H), 3.43 (s, 3H), 2.93 (d, J=4.5 Hz, 3H), 2.89 (s, 3H). MS (ESI) m/z=452 [M+H]+.

reactant | N5-(2-chloropyrimidin-4-yl)-N2,N5,1-trimethyl-1H-benzimidazole-2,5-diamine | 0.16 mmol, 48 mg | ClC1=NC=CC(=N1)N(C1=CC2=C(N(C(=N2)NC)C)C=C1)C | C14H15ClN6
reactant | 3-methanesulfonylmethyl-phenylamine | 0.16 mmol, 30 mg | CS(=O)(=O)CC=1C=C(C=CC1)N | C8H11NO2S
product | N5-[2-(3-Methanesulfonylmethyl-phenylamino)-pyrimidin-4-yl]-1,N2,N5-trimethyl-1H-benzoimidazole-2,5-diamine | CS(=O)(=O)CC=1C=C(C=CC1)NC1=NC=CC(=N1)N(C1=CC2=C(N(C(=N2)NC)C)C=C1)C | C22H25N7O2S
